US04544667
Step A: Preparation of 5-Morpholinobenzo[b]furan
5-Aminobenzo[b]furan and bis-(2-chloroethyl)ether and 40% aqueous NaOH (0.073 mole) are stirred and heated to provide the title compound.

reactant | 5-Aminobenzo[b]furan | NC1=CC2=C(OC=C2)C=C1 | C8H7NO
reactant | bis-(2-chloroethyl)ether | ClCCOCCCl | C4H8Cl2O
reactant | NaOH | 0.073 mole | [OH-].[Na+]
product | 5-Morpholinobenzo[b]furan | O1CCN(CC1)C1=CC2=C(OC=C2)C=C1 | C12H13NO2
